US05624935
3-Amino-2-methylamino-6-phenylthiopyridine
A procedure similar to that described in Example 6, was repeated, except that 5.40 g of 2-methylamino-3-nitro-6-phenylthiopyridine (prepared as described in Preparation 88) were hydrogenated in 80 ml of methanol in the presence of 1.10 g of 10 % w/w palladium-on-charcoal. After working up the product as described in Example 6, 4.00 g of the title compound having Rf=0.69 (on silica gel thin layer chromatography using ethyl acetate as the developing solvent) were obtained.

reactant | 2-methylamino-3-nitro-6-phenylthiopyridine | 5.40 g | CNC1=NC(=CC=C1[N+](=O)[O-])SC1=CC=CC=C1 | C12H11N3O2S
solvent | methanol | 80 ml | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 3-Amino-2-methylamino-6-phenylthiopyridine | 4.00 g | NC=1C(=NC(=CC1)SC1=CC=CC=C1)NC | C12H13N3S
